US07812166B2
2,4-Dichloro-nicotinic acid
Lithium diisopropylamide (2M in heptane/THF/benzene, 16.7 mL) was treated dropwise with 2,4-dichloropyridine (5 g, 33.8 mmol) at −78° C. in THF (25 mL). The mixture was stirred at −78° C. for 2 hours, treated with excess dry ice, allowed to warm up to room temperature, and partitioned between diethyl ether and an equal volume of 10% aqueous KOH. The basic extract was neutralized with 10% HCl and extracted with diethyl ether. The ethereal extract was dried (Na2SO4), filtered, and the filtrate wasconcentrated under reduced pressure to provide 9.5 g (70% yield) of the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 3.32 (s, 1H), 7.74 (d, J=5.42 Hz,1H), 8.47 (d, J=5.42 Hz,1H).

reactant | Lithium diisopropylamide | 2M, 16.7 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,4-dichloropyridine | 33.8 mmol, 5 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2,4-Dichloro-nicotinic acid | 9.5 g, 70% yield | ClC1=C(C(=O)O)C(=CC=N1)Cl | C6H3Cl2NO2
